US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxypropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3hydroxypropylamine in tetrahydrofuran. Yield: 65%; Rf value: 0.43 (silica gel; dichloromethane/ethanol=9:1); C23H25ClN4O3 (440.93); mass spectrum: (M+H)+=441/443 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3hydroxypropylamine | ClC1=CC2=C(NC(=N2)[C@H](CCO)N)C=C1 | C10H12ClN3O
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxypropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 65% | ClC1=CC2=C(NC(=N2)[C@H](CCO)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C23H25ClN4O3
